US07304062B2
(3,5-Difluorophenyl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester
To a solution of t-butyl carbazate (4.99 g, 37.76 mmol) in ethyl acetate (10 mL) was added with stirring 3,5-difluorobenzaldehyde (5.50 g, 38.7 mmol) followed by hexanes (50 mL). Crystallization occurred and the resulting slurry was stirred at rt for 15 min, then cooled to 0° C. and held at that temperature for 45 min. The solids were filtered, rinsed with cold hexanes and dried in vacuo at 60° C. to afford the title compound as a solid (9.04 g, 93.3%): mp 196.4-196.8° C. (dec); 1H NMR (DMSO-d6) δ 11.16 (br s, 1 H), 7.96 (s, 1 H), 7.28 (m, 2 H), 7.21 (t, 1 H, J=2.2 Hz), 1.45 (s, 9 H); 13C NMR (DMSO-d6) δ 163.3 (dd, J=246.1, 13.5 Hz), 152.9, 141.2, 139.2 (t, J=9.6 Hz), 109.9 (dd, J=20.2, 5.8 Hz), 105.1 (t, J=25.9 Hz), 80.5, 28.7; IR (KBr mull) 3263, 2987, 1709, 1584, 1536 cm−1. A portion was recrystallized (ethyl acetate) for analysis. Anal. Calcd. for C12H14F2N2O2: C, 56.25; H, 5.51; F, 14.83; N, 10.93. Found: C, 56.11; H, 5.49; N, 10.86.

reactant | t-butyl carbazate | 37.76 mmol, 4.99 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 3,5-difluorobenzaldehyde | 38.7 mmol, 5.50 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (3,5-Difluorophenyl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester | 9.04 g, 93.3% | FC=1C=C(C=C(C1)F)C=NNC(=O)OC(C)(C)C | C12H14F2N2O2
